US04435425
Ethyl 4,4-difluoro-3-amino-butanoate prepared as in Step B (3.340 g, 20 mM) is dissolved in 1 M HCl (20 ml) and the mixture heated at 100° C. for 3 hours. The solvent is evaporated in vacuo. The oily residue is crystallized from ethanol/ether; 2.800 g of 4,4-difluoro-3-amino-butanoic acid, hydrochloride (yield 80%). Mp: 150° C.

reactant | Ethyl 4,4-difluoro-3-amino-butanoate | FC(C(CC(=O)OCC)N)F | C6H11F2NO2
reactant | HCl | 1 M, 20 ml | Cl | ClH
product | 4,4-difluoro-3-amino-butanoic acid, hydrochloride | 2.800 g, yield 80% | Cl.FC(C(CC(=O)O)N)F | InChI=1S/C4H7F2NO2.ClH/c5-4(6)2(7)1-3(8)9;/h2,4H,1,7H2,(H,8,9);1H
